US07897607B2
N-(5-Iodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide
To a suspension of N-(5,6-diiodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide (941 mg, 1.88 mmol) in acetic acid (9 ml) and water (2 ml) was added zinc powder (246 mg, 3.76 mmol), and the mixture was stirred at room temperature for 1 day. After addition of zinc (123 mg, 1.88 mmol), the mixture was stirred at room temperature for 1 day. The reaction mixture was diluted with water and stirred at 0° C. for 2 hours. The resulting crystals were collected by filtration, washed with water and dissolved in tetrahydrofuran. The solution was filtrated, and the filtrate was concentrated in vacuo. The residue was washed with diiopropyl ether to give 545 mg (78%) of the title compound.

reactant | N-(5,6-diiodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide | 1.88 mmol, 941 mg | IC1=C(N(C=2N=C(NC(C21)=O)NC(C(C)(C)C)=O)C)I | C12H14I2N4O2
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
catalyst | zinc | 3.76 mmol, 246 mg | [Zn] | Zn
catalyst | zinc | 1.88 mmol, 123 mg | [Zn] | Zn
product | N-(5-Iodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide | 545 mg, 78% | IC1=CN(C=2N=C(NC(C21)=O)NC(C(C)(C)C)=O)C | C12H15IN4O2
